US06838567B1
To methyl (S)-4-amino-2-hydroxybutyrate hydrochloride (170.1 mg; 133.5 mg when calculated as methyl (S)-4-amino-2-hydroxybutyrate) was added 3 ml of 4 N HCl/dioxane, followed by further addition of 189.1 mg of thionyl chloride. The mixture was stirred at room temperature for 1 hour. Thereafter, 2.5 mg of pyridine was added, and the mixture was further stirred at 50° C. for 6 hours. After confirmation of disappearance of the starting material by TLC, the solvent was distilled off under reduced pressure to give 191.6 mg of methyl (R)-4-amino-2-chlorobutyrate hydrochloride (yield quantitative, optical purity 93.9% ee). The analysis of the optical purity was carried out by derivatizing into (R)-3-chloro-2-pyrrolidinone with sodium hydrogen carbonate, followed by high performance liquid chromatography using a chiral column (Chiralcel OB-H (Daicel)).

reactant | methyl (S)-4-amino-2-hydroxybutyrate hydrochloride | 170.1 mg | Cl.NCC[C@@H](C(=O)OC)O
reactant | HCl dioxane | 4 N, 3 ml | Cl.O1CCOCC1
reactant | thionyl chloride | 189.1 mg | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 2.5 mg | N1=CC=CC=C1 | C5H5N
product | methyl (R)-4-amino-2-chlorobutyrate hydrochloride | 191.6 mg | Cl.NCC[C@H](C(=O)OC)Cl | InChI=1S/C5H10ClNO2.ClH/c1-9-5(8)4(6)2-3-7;/h4H,2-3,7H2,1H3;1H/t4-;/m1./s1
